US07345067B2
A solution of (4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester (0.09 g, 0.2 mmol) in dioxane (1 mL) was treated with 1N NaH2PO3 solution (1 ml) and a 37% aqueous solution of formaldehyde (1 ml). The mixture was heated to 60° C. for 7.5 h. Additional dioxane (1 ml) was added and heated for 11.5 h. The mixture was extracted with aqueous saturated NaHCO3 solution/Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated to give 0.08 g (86%) of (4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester as yellow waxy solid, MS: 465 (MH+).

reactant | (4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | 0.2 mmol, 0.09 g | C(C)OC(COC1=CC=C(C=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C22H21F3N2O3S
reactant | formaldehyde | 1 ml | C=O | CH2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | 0.08 g, 86% | C(C)OC(COC1=CC=C(C=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C23H23F3N2O3S
